US08461328B2
A stirred solution of 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (173 mg, 0.513 mmol), trans-4-Amino-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester (112 mg, 0.513 mmol), diisopropylethylamine (211 μl, 1.16 mmol) in propan-2-ol (2 ml) were stirred at 82° C. overnight then cooled to room temperature. The precipitated solid was then collected by filtration to yield 231 mg (87%) of trans-4-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester that was used without further purification. LCMS (Method F): RT=1.22 min, m+H=520.0; 1H NMR (400 MHz, DMSO) 6=8.91 (s, 2H), 8.13 (d, J=7.4, 2H), 7.86-7.83 (m, 1H), 7.81-7.72 (m, 1H), 7.65 (s, 2H), 7.20-7.15 (m, 1H), 4.88-4.69 (m, 1H), 4.57-4.41 (m, 1H), 4.33 (d, J=4.2, 1H), 4.23-4.02 (m, 1H), 3.26-3.02 (m, 2H), 2.08-1.96 (m, 1H), 1.81-1.69 (m, 1H), 1.42 (s, 9H).

reactant | 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 0.513 mmol, 173 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | trans-4-Amino-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester | 0.513 mmol, 112 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)N)F | C10H19FN2O2
reactant | diisopropylethylamine | 1.16 mmol, 211 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propan-2-ol | 2 ml | CC(C)O | C3H8O
product | trans-4-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester | 231 mg, 87% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2)F | C23H26FN5O6S
